US07314888B1
To a solution of 0.67 g of isopentyl 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoate in 14 ml of ethanol is added 3.6 ml of 1 mol/L sodium hydroxide solution. The mixture thus obtained is stirred at 50° C. for one hour. Water and chloroform are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 0.56 g of 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoic acid is obtained as a white solid product.

reactant | isopentyl 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoate | 0.67 g | C(CC(C)C)N1C(=CC(=C1)C(CC(C)C)=O)C(=O)C=1C=CC(=C(C1)CCC(=O)OCCC(C)C)OCCC(C)C | C34H51NO5
reactant | sodium hydroxide | 1 mol/L, 3.6 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 14 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[5-{[1-isopentyl-4-(3-methylbutanoyl)-1H-pyrrol-2-yl]carbonyl}-2-(isopentyloxy)phenyl]propanoic acid | 0.56 g | C(CC(C)C)N1C(=CC(=C1)C(CC(C)C)=O)C(=O)C=1C=CC(=C(C1)CCC(=O)O)OCCC(C)C | C29H41NO5
